US07368578B2
To a mixture of 5-tert-butyldiphenylsilyloxymethyl-4-methoxymethoxymethyl-2-phenyl-1,3-oxazole (20.0 g) and chloroform (250 mL) added dropwise trimethylsilyl bromide (25.0 g) at −40° C. The reaction mixture was stirred at −40° C. for 30 min, and the mixture was further stirred at room temperature for 1 hr. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate, and extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:2, v/v) to give [5-(tert-butyldiphenylsilyloxymethyl)-2-phenyl-1,3-oxazol-4-yl]methanol. Recrystallization from hexane-ethyl acetate gave colorless crystals (10.2 g, yield 56%). melting point: 95-96° C.

reactant | 5-tert-butyldiphenylsilyloxymethyl-4-methoxymethoxymethyl-2-phenyl-1,3-oxazole | 20.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(N=C(O1)C1=CC=CC=C1)COCOC | C29H33NO4Si
reactant | trimethylsilyl bromide | 25.0 g | C[Si](C)(C)Br | C3H9BrSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | [5-(tert-butyldiphenylsilyloxymethyl)-2-phenyl-1,3-oxazol-4-yl]methanol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(N=C(O1)C1=CC=CC=C1)CO | C27H29NO3Si
